US07265144B2
A mixture of 2-bromo-5-methoxy benzoic acid (1.31 g, 5.7 mmol), potassium carbonate (859 mg, 6.2 mmol), 5-amino-1-phenyl-pyrazole (900 mg, 5.7 mmol), and copper (II) acetate (21 mg, 0.11 mmol) in DMF (12 mL) was heated (150° C.) in a sealed tube for 16 h. After cooling, the reaction mixture was diluted with water (5 mL), and then acidified to pH 4 with acetic acid. The mixture was extracted with dichloromethane (3×10 mL), and then the combined organic extracts were washed with water (2×10 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. HPLC purification of the residue (YMC propack C18 column, 150×20 mm ID, 30%-80% acetonitrile in water gradient) afforded 5-methoxy-2-[(1-phenyl-1H-pyrazol-5-yl)amino] benzoic acid (450 mg, 26%) as a pale yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 13.33 (br s, 1H), 9.62 (br s, 1H), 7.64 (d, 1H), 7.34-7.58 (m, 6H), 7.00-7.11 (m, 2H), 6.30 (d, 1H), 3.69 (s, 3H); ES-MS m/z 310.1 (MH+); HPLC RT (min) 2.74.

reactant | 2-bromo-5-methoxy benzoic acid | 5.7 mmol, 1.31 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | potassium carbonate | 6.2 mmol, 859 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-amino-1-phenyl-pyrazole | 5.7 mmol, 900 mg | NC1=CC=NN1C1=CC=CC=C1 | C9H9N3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
catalyst | copper (II) acetate | 0.11 mmol, 21 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-methoxy-2-[(1-phenyl-1H-pyrazol-5-yl)amino] benzoic acid | 450 mg, 26% | COC=1C=CC(=C(C(=O)O)C1)NC1=CC=NN1C1=CC=CC=C1 | C17H15N3O3
